US06897224B2
5-Amino-2-methoxyquinoline
550 mg (2.7 mmol) of 2-methoxy-5-nitroquinoline is stirred in 15 ml of ethyl acetate in the presence of 138 mg of 10% Pd—C for 5 hours in a hydrogen atmosphere. The batch is filtered, and the filtrate is concentrated by evaporation: 520 mg of a light yellow oil.

reactant | 2-methoxy-5-nitroquinoline | 2.7 mmol, 550 mg | COC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C10H8N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd—C | 138 mg | [Pd] | Pd
product | 5-Amino-2-methoxyquinoline | NC1=C2C=CC(=NC2=CC=C1)OC | C10H10N2O
